US06933311B2
4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzylamine
Lithium aluminum hydride (1.6 g; 43.2 mmol) in THF was treated with 4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzonitrile (2.48 g; 10.8 mmol) dropwise. After complete addition, the slurry was refluxed for 2 hours, allowed to cool to ambient temperature, and quenched with sodium sulfate decahydrate. The mixture was filtered and the filter cake was washed with THF (2×50 mL). The organics were combined and concentrated under reduced pressure. The residue was chromatographed (SiO2; 5% methanol in methylene chloride) to provide the title compound. 1H NMR (DMSO-d6) δ 7.03 (dd, 1H), 7.92 (dd, 1H), 7.85 (t, 1H), 4.21 (s, 2H), 3.60 (s, 2H), 1.93 (m, 2H), 1.77 (m, 5H), 1.42 (m, 1H), 1.32 (m, 2H); MS (ESI) m/z 235, (M+H)+.

reactant | Lithium aluminum hydride | 43.2 mmol, 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzonitrile | 10.8 mmol, 2.48 g | C12CCCC(CC1)N2C2=C(C=C(C#N)C=C2)F | C14H15FN2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzylamine | C12CCCC(CC1)N2C2=C(C=C(CN)C=C2)F | C14H19FN2
